US09212168B2
[(S)-2-((2S,4S)-2-{4-[5′-Chloro-4′-({6-[(R)-4-(2,2-dimethyl-propionyl)-2-methyl-piperazin-1-yl]-pyridine-3-carbonyl}-amino)-2′-trifluoromethoxy-biphenyl-4-yl]-1H-imidazol-2-yl}-4-methyl-pyrrolidin-1-yl)-2-oxo-1-(tetrahydro-pyran-4-yl)-ethyl]-carbamic acid methyl ester
To a solution of (S)-methoxycarbonylamino-(tetrahydro-pyran-4-yl)-acetic acid (9.4 mg, 0.046 mmol; Preparation 29) in DMA (5 mL) was added HATU (45.3 mg, 0.12 mmol). The reaction mixture was stirred at RT for 15 min, and N-{5-chloro-4′-[2-((2S,4S)-4-methyl-pyrrolidin-2-yl)-1H-imidazol-4-yl]-2-trifluoromethoxy-biphenyl-4-yl}-6-[(R)-4-(2,2-dimethyl-propionyl)-2-methyl-piperazin-1-yl]-nicotinamide tri-HCl (30.0 mg, 0.036 mmol; Preparation 31 was added followed by DIPEA (86.4 μL, 0.50 mmol). The reaction mixture was stirred at RT overnight, concentrated by rotary evaporation, dissolved in 1:1 acetic acid:water (1.5 mL) and purified by reverse phase HPLC to provide the di-TFA salt of the title compound (14 mg, 37% yield). (m/z): [M+H]+ calcd for C46H54ClF3N8O7 923.38. found 923.8.

reactant | (S)-methoxycarbonylamino-(tetrahydro-pyran-4-yl)-acetic acid | 0.046 mmol, 9.4 mg | COC(=O)N[C@H](C(=O)O)C1CCOCC1 | C9H15NO5
reactant | HATU | 0.12 mmol, 45.3 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-{5-chloro-4′-[2-((2S,4S)-4-methyl-pyrrolidin-2-yl)-1H-imidazol-4-yl]-2-trifluoromethoxy-biphenyl-4-yl}-6-[(R)-4-(2,2-dimethyl-propionyl)-2-methyl-piperazin-1-yl]-nicotinamide tri-HCl | Cl.Cl.Cl.ClC=1C(=CC(=C(C1)C1=CC=C(C=C1)C=1N=C(NC1)[C@H]1NC[C@H](C1)C)OC(F)(F)F)NC(C1=CN=C(C=C1)N1[C@@H](CN(CC1)C(C(C)(C)C)=O)C)=O
reactant | DIPEA | 0.50 mmol, 86.4 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMA | 5 mL | CC(=O)N(C)C | C4H9NO
product | [(S)-2-((2S,4S)-2-{4-[5′-Chloro-4′-({6-[(R)-4-(2,2-dimethyl-propionyl)-2-methyl-piperazin-1-yl]-pyridine-3-carbonyl}-amino)-2′-trifluoromethoxy-biphenyl-4-yl]-1H-imidazol-2-yl}-4-methyl-pyrrolidin-1-yl)-2-oxo-1-(tetrahydro-pyran-4-yl)-ethyl]-carbamic acid methyl ester | 14 mg, 37% yield | COC(N[C@H](C(=O)N1[C@@H](C[C@@H](C1)C)C=1NC=C(N1)C1=CC=C(C=C1)C1=C(C=C(C(=C1)Cl)NC(=O)C=1C=NC(=CC1)N1[C@@H](CN(CC1)C(C(C)(C)C)=O)C)OC(F)(F)F)C1CCOCC1)=O | C46H54ClF3N8O7
